US09145392B2
4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-(4-difluoromethoxy-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxylic acid amide (“81”)
The title compound was prepared in an analogous manner as 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxamide using 4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-(4-difluoromethoxy-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile instead of 4-amino-6-(4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1H-imidazol-2-yl}piperidin-1-yl)pyrimidine-5-carbonitrile. LC-MS: (M+1=513, obsd.=513).

reactant | 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxamide | NC1=NC=NC(=C1C(=O)N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H21F4N7O
reactant | 4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-(4-difluoromethoxy-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC=C(C=C1)OC(F)F)CCN1CCC1 | C25H28F2N8O
product | 4-Amino-6-{4-[1-(2-azetidin-1-yl-ethyl)-4-(4-difluoromethoxy-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxylic acid amide | NC1=NC=NC(=C1C(=O)N)N1CCC(CC1)C=1N(C=C(N1)C1=CC=C(C=C1)OC(F)F)CCN1CCC1 | C25H30F2N8O2
